US03979513
Copper powder (1 g.) is added to 1,7-dichloroanthraquinone (1.25 g.) in concentrated sulphuric acid (10 ml.) and the mixture is stirred at 40°C. for 5 hours then poured into ice-water and extracted with ethyl acetate. The ethyl acetate extract is washed with water and with brine, dried (MgSO4) and evaporated to give 1,7-dichloroanthrone, m.p. 160°-165°C. on recrystallisation from acetic acid.

reactant | 1,7-dichloroanthraquinone | 1.25 g | ClC1=CC=CC=2C(C3=CC=C(C=C3C(C12)=O)Cl)=O | C14H6Cl2O2
solvent | sulphuric acid | 10 ml | S(O)(O)(=O)=O | H2O4S
catalyst | Copper | 1 g | [Cu] | Cu
product | 1,7-dichloroanthrone | ClC1=CC=CC=2CC3=CC=C(C=C3C(C12)=O)Cl | C14H8Cl2O
